US07589170B1
Benzyl bromide (1.50 cm3, 2.16 g, 12.6 mmol) was added to a stirred suspension of 3,4-dihydroxybenzoic acid (1.00 g, 6.49 mmol), potassium carbonate (1.97 g, 14.3 mmol) and a catalytic amount of tetrabutylammonium iodide in N,N-dimethylformamide (50 cm3). The suspension was stirred under nitrogen overnight then water (500 cm3) and 5% hydrochloric acid (50 cm3) were added, and the mixture was extracted with diethyl ether (3×100 cm3). The combined extracts were washed with water (3×100 cm3) and brine (100 cm3), then dried (Na2SO4) and evaporated to an orange oil. Flash column chromatography (eluent: 10-20% ethyl acetate in light petroleum) gave first benzyl 3,4-dibenzyloxybenzoate (168 mg, 6%), identical to that prepared above. Further elution then gave benzyl 4-benzyloxy-3-hydroxybenzoate (1.312 g, 60%) as a pale yellow oil. The position of the benzyloxy group was deduced from an n.O.e. observed between the proton at position 5 and the methylene protons of the benzyloxy group at position 4.

reactant | Benzyl bromide | 12.6 mmol, 1.50 cm3, 2.16 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 3,4-dihydroxybenzoic acid | 6.49 mmol, 1.00 g | OC=1C=C(C(=O)O)C=CC1O | C7H6O4
reactant | potassium carbonate | 14.3 mmol, 1.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 50 cm3 | Cl | ClH
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 50 cm3 | CN(C=O)C | C3H7NO
solvent | water | 500 cm3 | O | H2O
product | benzyl 3,4-dibenzyloxybenzoate | 168 mg, 6% | C(C1=CC=CC=C1)OC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1OCC1=CC=CC=C1 | C28H24O4
